US04338454
27.0 parts of triethoxysilane, 0.05 parts phenothiazine, and 250 ppm hexachloroplatinic acid were charged to a three-neck 100 ml round bottom flask equipped with a magnetic stirrer, thermometer, addition funnel, and water condenser with a nitrogen by-pass. 18.4 parts of allylpentachlorophenyl ether prepared as described above was then added to the dropping funnel. Flask contents were heated to 80° C. at which point the allylpentachlorophenyl ether was added dropwise keeping the exotherm below 100° C. by regulation of the addition rate. After the addition was completed (ca. 15 minutes) the total flask contents were heated at 90° C. for 30 minutes then cooled to room temperature. The flask contents were then evaporated under reduced pressure at 60° C. to yield a liquid which was subsequently vacuum distilled through a six-inch heated vigreux column at 1.0 mm Hg. 13.0 parts of 3-(pentachlorophenoxy)propyltriethoxysilane with a boiling point of 216°-245° C. at 1.0 mm Hg was obtained. The product was identified by gas chromatography, infrared and nuclear magnetic resonance spectroscopy.

reactant | triethoxysilane | C(C)O[SiH](OCC)OCC | C6H16O3Si
reactant | phenothiazine | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | allylpentachlorophenyl ether | C(C=C)C1(C(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl)OC1(C(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl)CC=C | C18H12Cl10O
catalyst | hexachloroplatinic acid | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | 3-(pentachlorophenoxy)propyltriethoxysilane | ClC1=C(C(=C(C(=C1OCCC[Si](OCC)(OCC)OCC)Cl)Cl)Cl)Cl | C15H21Cl5O4Si
